US04939265
Dimethyl [3,3-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propen-1-yl]phosphonate
A slurry of 3,3-bis-(4-fluorophenyl)-1-bromo-2-(1-methyl-1H-tetrazol-5-yl)-2-propene (1.17 g, 3.0 mmol) and trimethyl phosphite (0.41 g, 3.3 mmol) was heated at 100° C. for 5 minutes. After cooling to ambient temperature, excess trimethylphosphite was removed in vacuo to give a light yellow solid. This solid was recrystallized from ethylacetate/hexane mixture to give the title compound as a pure white solid; m.p.=140°-141° C.

reactant | 3,3-bis-(4-fluorophenyl)-1-bromo-2-(1-methyl-1H-tetrazol-5-yl)-2-propene | 3.0 mmol, 1.17 g | FC1=CC=C(C=C1)C(=C(CBr)C1=NN=NN1C)C1=CC=C(C=C1)F | C17H13BrF2N4
reactant | trimethyl phosphite | 3.3 mmol, 0.41 g | P(OC)(OC)OC | C3H9O3P
product | Dimethyl [3,3-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propen-1-yl]phosphonate | FC1=CC=C(C=C1)C(=C(CP(OC)(OC)=O)C1=NN=NN1C)C1=CC=C(C=C1)F | C19H19F2N4O3P
